US07745646B2
Ammonium acetate (27.7 g, 360 mmol) was added to a solution of 3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-4-hydroxy-7-methoxy-2H-chromen-2-one (5 g, 12 mmol), acetic acid (25 mL), and toluene (100 mL). The reaction was refluxed with the water being removed using a Dean-Stark apparatus. After 2 h, the toluene was removed by distillation. After an additional 5 h at reflux, the reaction was allowed to cool to rt, poured into cold water (100 mL), and then extracted with ethyl acetate (100 mL×3). The combined extracts were washed with sat'd NaHCO3 (100 mL×4) and then brine (50 mL×3), filtered, concentrated, and purified by silica gel chromatography (ethyl acetate:petroleum ether) to give 4-amino-3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one: MS (ESI): 410.

reactant | Ammonium acetate | 360 mmol, 27.7 g | C(C)(=O)[O-].[NH4+]
reactant | 3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-4-hydroxy-7-methoxy-2H-chromen-2-one | 12 mmol, 5 g | C(C1=CC=CC=C1)OCCC=1C(OC2=C(C(=CC=C2C1O)OC)OC1CCCC1)=O | C24H26O6
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-amino-3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one | NC1=C(C(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O)CCOCC1=CC=CC=C1 | C24H27NO5
